US07375131B2
Preparation of 5-Phenylethynyl-2-ureido-thiophene-3-carboxylic Acid Amide
5-Bromo-2-ureido-thiophene-3-carboxylic acid amide (0.264 g, 1.0 mmol), copper (I) iodide (0.005 g), triphenyl phosphene (0.030 g, 15 mole %), palladium acetate (0.010 g, 5% mole %), triethyl amine (1 mL) and phenylacetylene (0.1 g, 1.1 mmol) in DMF (4 mL) was added to a 9 mL reaction vial. The reaction vial was sealed and heated to 100° C. in a Smith Microwave Synthesizer for 20 min. Water (5 mL) and ethyl acetate (20 mL) were added to the reaction mixture, the organic phase was separated and then washed with brine (2×10 mL) and water (1×10 mL), and dried over anhydrous magneium sulfate. After filtration, the solvent was removed under vacuum and the crude residue was taken into DMSO (5 mL) and purified utilizing a Gilson preparative HPLC to give the above titled compound as a light brown solid (0.050 g, 0.18 mmol, 18% yield). LC-MS [M+H]+ m/z 286.

reactant | 5-Bromo-2-ureido-thiophene-3-carboxylic acid amide | 1.0 mmol, 0.264 g | BrC1=CC(=C(S1)NC(=O)N)C(=O)N | C6H6BrN3O2S
reactant | triethyl amine | 1 mL | C(C)N(CC)CC | C6H15N
reactant | phenylacetylene | 1.1 mmol, 0.1 g | C1(=CC=CC=C1)C#C | C8H6
reactant | Water | 5 mL | O | H2O
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
catalyst | copper (I) iodide | 0.005 g | [Cu]I
catalyst | palladium acetate | 0.010 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | 5-Phenylethynyl-2-ureido-thiophene-3-carboxylic Acid Amide | 0.18 mmol, 0.050 g, 18% yield | C1(=CC=CC=C1)C#CC1=CC(=C(S1)NC(=O)N)C(=O)N | C14H11N3O2S
